US04229461
A mixture of 2.19 g of the obtained 3-(3,5-dichlorophenylthiocarbamoyl)thiazolidine-2-carboxylic acid ethyl ester and 20 ml of concentrated hydrochloric acid was stirred at 120° C. for 1.5 hours. After the reaction mixture was cooled, the precipitate was separated, followed by recrystallization from a mixed solvent of ethyl acetate and n-hexane to give 1.43 g (yield 74.7%) of 6-(3,5-dichlorophenyl)perhydroimidazo[5,1-b]thiazole-5-thion-7-on (Compound No. 2). The resulting point and the elementary analysis were as given in table 1.

reactant | 3-(3,5-dichlorophenylthiocarbamoyl)thiazolidine-2-carboxylic acid ethyl ester | 2.19 g | C(C)OC(=O)C1SCCN1C(NC1=CC(=CC(=C1)Cl)Cl)=S | C13H14Cl2N2O2S2
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | 6-(3,5-dichlorophenyl)perhydroimidazo[5,1-b]thiazole-5-thion-7-on | 1.43 g, yield 74.7% | ClC=1C=C(C=C(C1)Cl)N1C(N2C(SCC2)C1=O)=S | C11H8Cl2N2OS2
